US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (3-carbamoylmethyl-oxetan-3-yl)-amide
The title compound was synthesized in analogy to Example 6 using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.21 mmol) and 2-(3-amino-oxetan-3-yl)-acetamide (31 mg, 0.24 mmol) as starting materials and isolated (30 mg, 41%) as white solid; LC-MS (UV peak area, ESI) 100%, 347.1710 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.21 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-(3-amino-oxetan-3-yl)-acetamide | 0.24 mmol, 31 mg | NC1(COC1)CC(=O)N | C5H10N2O2
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (3-carbamoylmethyl-oxetan-3-yl)-amide | C(N)(=O)CC1(COC1)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C17H22N4O4
